Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media - IV Dye / glipizide / metformin / 
Sulfa (Sulfonamide Antibiotics) / Topamax
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o woman with a PMH of HTN, DMII, Fibromyalgia, ?asthma 
diagnosis who presents after months of progressively worsening 
dyspnea on exertion w/ associated chest tightness. Additionally, 
she has had subjective intermittent fevers and chills for 2 days 
and dry cough for one week. She denies hemoptysis. She was seen 
by urgent care who prescribed a ZPak and had a d-dimer drawn 
which was elevated. Chest x-ray and CTA negative for PE or PNA. 
Troponins negative x 1 and EKG showing q waves in inferior 
leads. 

In the ED, initial vitals were: 100.4 114 160/98 18 100% RA.  
Exam notable for tachypnea, tachycardia, and fever 100.4. 
Labs notable for Glucose 449, trop neg x 1, BNP 46, Lactate 2. 
Imaging notable for CXR w/o consolidation, effusion, 
pneumothorax. CT-A chest without PE, showed axilla adenopathy. 
___ without DVT.
Patient was given 325 mg aspirin, 1L IVF, 1g Acetaminophen, 80 
mg Atorvastatin, 40U Insulin.  
Decision was made to admit for ongoing dyspnea. 
Vitals prior to transfer: 98.2 87 145/83 16 96% RA. 
 
On arrival to floor, she reports that she has just over 1 week 
SOB with dry cough. She had fevers at home to maximum 101. She 
also has associated chest pain in the ___ her chest. It's 
a sharp pain worsened with cough and moving. Relaxing makes her 
chest pain better. Denies travel, sick contacts. She endorses 
some sharp abdominal pain as well, but says she also has some 
chronic abdominal pain from her IBS. She had a stress test 
"years ago" that was normal. She has not had one since. She has 
DOE and associated chest pain but is unable to quantify how 
often she has this or if it has gotten worse recently. She also 
has cough with GERD but cough is worse now. Denies orthopnea, 
PND. Has swelling around both legs, worse on left than R. She's 
had a urinary sling in place for awhile and has burning at 
times. Recently her urine has been cloudier. She has been having 
problems with voiding completely.  
ROS is otherwise negative. 
 
Past Medical History:
Obesity  
IRRITABLE BOWEL SYNDROME  
CARPAL TUNNEL SYNDROME  
Fatty liver  
DM type 2, uncontrolled, with renal complications  
PITUITARY ADENOMA / MICROADENOMA  
VERTIGO - BENIGN POSITIONAL  
DIVERTICULOSIS  
ARTHRALGIA - MULT JOINTS  
Migraine headache  
Fibromyalgia
HTN
OSA not on CPAP
HLD
Hx Colonic adenoma
Cataract
GERD (gastroesophageal reflux disease)  
Adhesive capsulitis  
Partial tear of rotator cuff, left  
Bilateral ovarian cysts  
LAVH with TVT - ___  
Endometrial ablation  
 
Social History:
___
Family History:
She denies a known family history of breast, ovarian, uterine, 
cervical, or colon malignancy. Denies family history of bleeding 
or clot disorders. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=====================
VS - 98.3 142/79 93 18 96% on RA, 96-98% during ambulation   
General: Alert, oriented, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx erythematous w/ no 
tonsillar exudate, EOMI, neck supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Chest: Tender to palpation at sternocostal joints. 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended. Tender to palpation diffusely over 
abdomen, worse suprapubic, bowel sounds present, no 
organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, 
trace edema b/l. Multiple scabs and round brown discoloration of 
skin which patient says was called folliculitis. Shins and 
ankles tender to palpation. 

DISCHARGE PHYSICAL EXAM:
======================
VS - 98.1 134 / 77 69 18 98 RA  
General: Alert, oriented, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx erythematous w/ no 
tonsillar exudate, EOMI, neck supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Chest: Tender to palpation at sternocostral joints. 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended. Tender to palpation diffusely over 
abdomen, worse suprapubic, bowel sounds present, no 
organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, 
trace edema b/l. Multiple scabs and round brown discoloration of 
skin which patient says was called folliculitis. Shins and 
ankles tender to palpation.  
 
Pertinent Results:
ADMISSION LABS:
=============
___ 09:05PM BLOOD WBC-9.6 RBC-4.41 Hgb-12.3 Hct-38.1 MCV-86 
MCH-27.9 MCHC-32.3 RDW-12.7 RDWSD-39.9 Plt ___
___ 09:05PM BLOOD Neuts-54.9 ___ Monos-7.5 Eos-3.2 
Baso-0.4 Im ___ AbsNeut-5.24 AbsLymp-3.23 AbsMono-0.72 
AbsEos-0.31 AbsBaso-0.04
___ 09:11PM BLOOD ___ PTT-29.9 ___
___ 09:05PM BLOOD Glucose-449* UreaN-7 Creat-0.7 Na-133 
K-3.6 Cl-98 HCO3-25 AnGap-14
___ 09:05PM BLOOD proBNP-46
___ 09:05PM BLOOD cTropnT-<0.01
___ 09:07PM BLOOD Lactate-2.0

DISCHARGE LABS:
==============
___ 07:05AM BLOOD WBC-7.5 RBC-4.07 Hgb-11.3 Hct-35.7 MCV-88 
MCH-27.8 MCHC-31.7* RDW-12.7 RDWSD-41.1 Plt ___
___ 07:05AM BLOOD Neuts-46.5 ___ Monos-7.8 Eos-4.5 
Baso-0.4 Im ___ AbsNeut-3.51 AbsLymp-3.05 AbsMono-0.59 
AbsEos-0.34 AbsBaso-0.03
___ 07:05AM BLOOD ___ PTT-28.0 ___
___ 07:05AM BLOOD Glucose-288* UreaN-7 Creat-0.7 Na-139 
K-3.8 Cl-103 HCO3-25 AnGap-15
___ 07:05AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:05AM BLOOD Calcium-8.6 Phos-3.9 Mg-1.9
___ 12:04PM URINE Color-Straw Appear-Clear Sp ___
___ 12:04PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

STUDIES/IMAGING:
==============
___ UNILAT LOWER EXT VEINS
No evidence of deep venous thrombosis in the left lower 
extremity veins.

___ CTA CHEST
1. No evidence of pulmonary embolism or aortic abnormality.
2. Right axillary adenopathy.  This is nonspecific and 
potentially reactive
although neoplasm/lymphoproliferative disorders are possible.

MICRO:
=====
___ UCx pending
 
Brief Hospital Course:
___ yo F with PMHx HTN, HLD, DMII, Fibromyalgia, OSA not on CPAP 
p/w months of progressively worsening dyspnea on exertion w/ 
associated chest tightness plus intermittent subjective f/c and 
cough x 1 week:

# Progressive dyspnea on exertion/Chest tightness: Broad DDx 
considered, including CHF, cardiac ischemia, PE. CXR 
unremarkable, CTA negative for PE or PNA, BNP wnl at 46, EKG 
with Q waves in the inferior leads but no e/o active ischemia.  
Trop negx2, MB negative. Ambulatory vitals to assess for desats 
w/ exertion were negative. Chest pain was reproducible with 
palpation, suggesting costochondritis in the setting of chronic 
cough as below.  Given the finding of inferior Q-waves on EKG, 
without prior dx of CAD, and with several risk factors for CAD 
(DM, HTN, HLD), as well as the potential for a prior silent 
infarct (poorly controlled DM), we felt a stress test to 
evaluate for possible inducible cardiac ischemia was reasonable. 
 We discussed this with the patient, who informed us that she 
has an outpatient stress test already scheduled for ___ and 
that she would prefer to have it done as an outpatient than as 
an inpatient.  Given her clinical stability, and ability to 
perform mild-to-moderate exertional activities without limiting 
dyspnea, we felt comfortable discharging her home with planned 
outpatient stress testing and close PCP/primary cardiology 
follow-up.

# Cough & Fever: Patient reported new cough x 1 week associated 
fever. CT chest negative as above, and no fevers while admitted, 
so felt most likely to be viral respiratory infection.  Patient 
had been on azithromycin as outpatient (x1 dose, prescribed by 
Urgent Care), which was stopped at time of admission. Was given 
Ciprofloxacin in ED (concern for UTI) and then again on floor, 
but had significant side effects (nausea, dry-heaving, and 
diarrhea).  Antibiotics were stopped as there was no clear 
evidence of PNA on CT chest and no clear evidence of other 
bacterial infection.

# Dysuria/Suprapubic Pain: Patient c/o dysuria few days prior to 
admission with suprapubic discomfort.  Reported to be treated 
for yeast infection a few days prior to admission. UA was 
obtained on ___ (after cipro started in ED), with no evidence 
of infection and patient had significant GI distress with 
ciprofloxacin, so antibiotics were stopped.  Patient has pelvic 
sling and has voiced concerns about it (pain, incrased urinary 
frequency, urinary incontinence) and she will plan to follow up 
with OB/GYN. 

# Right axillary lymphadenopathy: Noted incidentally on CT 
chest. Unclear cause.  Physical exam axilla benign.  Needs 
follow up as outpatient with interval imaging and consideration 
of lymph node biopsy if persistent.

CHRONIC MEDICAL ISSUES:
#HLD: continued atorvastatin  
#GERD: continued PPI
#Fibromyalgia/chronic pain: continued duloxetine
#Reactive airways/possible asthma: continued albuterol prn  
#Folliculitis: diffusely healing scars over arms/legs, no acute 
lesions c/f infection. 

*****TRANSITIONAL ISSUES*****
- Patient with stress test scheduled for ___. On 
EKG, she has q waves in inferior leads which are concerning for 
a possible previous (silent) infarct.
- Patient with poorly controlled diabetes, continue optimization 
of her regimen
- Should continue further workup to determine etiology of 
chronic dyspnea with cough. Considerations include worsening of 
GERD, ACEi, cardiac disease. 
- Patient needs follow up with OB/GYN re: pelvic sling as she 
endorsed increase in urinary incontinence and pelvic pain for 
some time
- Incidental Finding on CT Chest = Right axillary adenopathy. 
This is nonspecific and potentially reactive although neoplasm / 
lymphoproliferative disorders are possible. It should be further 
worked up with repeat CT vs lymph node biopsy. 

# CODE: Full Code  
# CONTACT: ___ (no number) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
2. Atorvastatin 80 mg PO QPM 
3. esomeprazole magnesium 20 mg oral BID 
4. Aspirin 81 mg PO DAILY 
5. Cetirizine 10 mg PO DAILY 
6. DULoxetine 60 mg PO DAILY 
7. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
8. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
9. Clindamycin 1% Solution 1 Appl TP DAILY 
10. Fluocinonide 0.05% Cream 1 Appl TP BID 
11. Azithromycin 500 mg PO DAILY 
12. Glargine 40 Units Bedtime

 
Discharge Medications:
1.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Cetirizine 10 mg PO DAILY  
5.  Clindamycin 1% Solution 1 Appl TP DAILY  
6.  DULoxetine 60 mg PO DAILY  
7.  esomeprazole magnesium 20 mg oral BID  
8.  Fluocinonide 0.05% Cream 1 Appl TP BID  
9.  Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough  
10.  Glargine 40 Units Bedtime 
11.  lisinopril-hydrochlorothiazide ___ mg ORAL DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Dyspnea
Secondary Diagnoses:
HTN
DMII

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

___ were admitted to the hospital for evaluation of your 
shortness of breath.  There was some concern for a lung 
infection or a blood clot in your lungs and ___ received a CT 
scan which did not show an infection or a blood clot.   

It seems like your shortness of breath and chest tightness and 
cough might be caused by a few different things.  ___ are on a 
blood pressure medication Lisinopril which is known to cause a 
cough as a side effect. It is also possible ___ have a virus 
("the common cold") that is causing cough and some chest 
tightness.  Your fibromyalgia may also be contributing to your 
discomfort as well. 

We evaluated your heart function with an EKG and checked some 
lab work which showed that ___ were not having a heart attack.  
Your chest tightness is related to the cough and shortness of 
breath ___ have.  

It is really important that ___ follow up with your primary care 
doctor.  
Please do not take the "zpack" ___ were given by the Urgent Care 
doctors.
___ have a stress test already scheduled on ___. 

___ mentioned ___ were having troubles with urination and ___ 
have some concerns about your pelvic sling.  Please call your 
OB/GYN doctor to schedule an appointment to follow up your 
concern. 

It was a pleasure taking care of ___!

Your ___ Team
 
Followup Instructions:
___